US08067445B2
Step 1: [2′-({[2-(4-Chloro-phenoxy)-acetyl]-ethyl-amino}-methyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: (2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester and 4-chlorophenoxyacetyl chloride.

reactant | (2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C20H22F3NO3
reactant | 4-chlorophenoxyacetyl chloride | ClC1=CC=C(OCC(=O)Cl)C=C1 | C8H6Cl2O2
product | [2′-({[2-(4-Chloro-phenoxy)-acetyl]-ethyl-amino}-methyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(COC1=CC=C(C=C1)Cl)=O)=O | C28H27ClF3NO5
